2144-01-29 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-28**] 08:42 PM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-28**] 11:05 PM
   Metronidazole - [**2144-1-29**] 12:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-29**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37
C (98.6
   HR: 90 (77 - 90) bpm
   BP: 99/57(68) {75/46(53) - 121/66(76)} mmHg
   RR: 20 (17 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,270 mL
                                                                    318 mL
   PO:
             TF:
   IVF:
                                                                  2,270 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                  1,340 mL
   Urine:
                                                                    560 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,710 mL
                                                                 -1,023 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GENERAL: Pleasant, African American Male lying down in bed in NARD
   HEENT: No scleral icterus. PERRL/EOMI.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No murmurs, rubs
   or [**Last Name (un) 1011**].
   LUNGS: CTAB, good air movement biaterally.
   ABDOMEN: NABS. Soft, NT, ND. No HSM
   EXTREMITIES: No edema
   NEURO: Orientated x3.(person place year) Appropriate. CN 2-12 grossly
   intact.
   PSYCH: Sleepy appearing but orientated/appropriate when aroused.
   Labs / Radiology
   107 K/uL
   9.0 g/dL
   124 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.2 mEq/L
   26 mg/dL
   105 mEq/L
   136 mEq/L
   28.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2144-1-28**]  10:10 PM
                             [**2144-1-29**]  04:08 AM
   WBC
   5.8
   6.2
   Hct
   28.0
   28.7
   Plt
   113
   107
   Cr
   1.3
   1.3
   Glucose
   116
   124
   Other labs: PT / PTT / INR:14.6/26.5/1.3, Differential-Neuts:93.5 %,
   Lymph:4.3 %, Mono:1.2 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Ca++:7.5
   mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   81 y.o. Male w/ esophageal and NSCLC initially admitted w/ witnessed
   seizure, hypotension admitted to ICU for hypotension concerning for
   sepsis vs hypovolemia.
   ##. Hypotension: Concerning for sepsis versus hypovolemia. Pt last had
   chemo several days prior to admission and is undergoing XRT. Noted to
   be febrile prior to the episode of hypotension, coupled with positive
   bld culture concerning for septic shock. Pt currently started on
   Cipro/Flagyl/[**Last Name (LF) 339**], [**First Name3 (LF) **] change coverage to Zosyn, [**First Name3 (LF) 339**], Flagyl for
   broad coverage pending speciation. Will also continue to IVF bolus and
   placed a central line. Suspected sources include GI given episode of
   bleeding this AM, will also check pulmonary, urine. Other ddx to
   consider includes hypovolemia given pt's poor PO intake and admission
   data of hypotension relieved with IVF.  Favor the latter given SIRS
   negative.
   - Make Dr. [**Last Name (STitle) 1525**] aware of bloodstream infection in patient with
   portacath as he placed portacath
   - f/u bld cultures
 GPC
   - check U/A, urine cultures
   - placed central line for access, possible pressors
 less likely now
   - place A-line if hypotension persists or pressors are initiated
deferred given excellent response to fluids
   - change abx to [**Last Name (STitle) 339**], Zosyn, Flagyl
 Zosyn, Flagyl for bowel, [**Last Name (STitle) 339**] for
   GPCs
   - f/u C. diff, Stool cultures
   - check CXR for PNA
   - check Hct
   .
   ## Abdominal Pain:  See below, not concerned for Toxic megacolon,
   though would check KUB to r/o obstruction as patient was having
   diarrhea, now not moving bowels.
   -KUB
   .
   ##Throat Pain:  Likely [**2-25**] XRT
   -magic mouthwash
   -oxycodone
   .
   ##. Hematochezia: Per review with primary team on medicine floor pt was
   noted to have 400cc of bloody bowel movement. GI have already been
   consulted with the concern being ischaemic colitis given the level of
   hypotension in the ED. GI recommended pt start a clear diet and undergo
   an infectious colitis work up.
   - will check stool cx, C. diff toxin for infectious colitis work up
   - will type and cross
   - check Hct, [**Hospital1 7**] for now given stability
   - f/u GI recs
   - will continue on clear diet
   .
   ##. [**Last Name (un) **]: Pt's baseline Creatinine 1.0-1.2, currently elevated, likely
   pre-renal in nature, need to consider ATN given episode of hypotension.
   Will continue to trend Creatinine response to fluids.If Creatinine
   fails to improve will consider urine lytes.
   - trend Creatinine
   .
   ##. Seizure: Will continue on home regimen of phenobarbital, place on
   seizure precautions
    .
   ##. Esophageal/NSCLC: Pt received chemo several days ago, received XRT
   yesterday AM.
   - f/u Heme Onc recs
   - Oxycodone PRN pain
   - Zofran, Ondanestron for nausea
   .
   ##. DVT Prophylaxis: SC heparin TID
   .
   ##. Communication: Daughter [**Name (NI) **]
   .
   ##. ACCESS: PIV, Rt SCL
   .
   ##. CODE STATUS: Confirmed FULL
    .
   ##. DISPOSITION: likely today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2144-1-28**] 09:00 PM
   Multi Lumen - [**2144-1-28**] 09:38 PM
   Prophylaxis:
   DVT: SC heparin TID
   Stress ulcer: Omeprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-29 11:40:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2144-1-28**] 09:00 PM
 MULTI LUMEN - START [**2144-1-28**] 09:38 PM
 NASAL SWAB - At [**2144-1-28**] 11:04 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-28**] 08:42 PM
   Metronidazole - [**2144-1-29**] 07:42 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-29**] 10:00 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2144-1-29**] 07:42 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea, Hypotension
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**1-25**] Minimal
   Flowsheet Data as of  [**2144-1-29**] 11:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 97 (77 - 97) bpm
   BP: 102/63(74) {75/46(53) - 121/67(78)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,270 mL
                                                                    682 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  2,270 mL
                                                                    562 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                  1,980 mL
   Urine:
                                                                    560 mL
                                                                  1,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,710 mL
                                                                 -1,298 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mid epigastric
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   107 K/uL
   124 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.2 mEq/L
   26 mg/dL
   105 mEq/L
   136 mEq/L
   28.7 %
   6.2 K/uL
        [image002.jpg]
                             [**2144-1-28**]  10:10 PM
                             [**2144-1-29**]  04:08 AM
   WBC
   5.8
   6.2
   Hct
   28.0
   28.7
   Plt
   113
   107
   Cr
   1.3
   1.3
   Glucose
   116
   124
   Other labs: PT / PTT / INR:14.6/26.5/1.3, Differential-Neuts:93.5 %,
   Lymph:4.3 %, Mono:1.2 %, Eos:1.0 %, Lactic Acid:1.8 mmol/L, Ca++:7.5
   mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   Sz
   Esophageal Ca
   Lung Ca
   Hematochezia
   Has responded to fluids. Unclear why he was hypotesnsive - possibly
   septic with GPC in BC on [**1-27**], asso with poor intake from throat pain.
   Now covered with Vanco. Holding on line removal until we get
   confirmation that this is Staph Aureus.  Surgery to be notified re
   PortaCath.  WBC is stable and he is only min febrile. No obvious source
   of infection other than CVL but have to be concerned about abd pain and
   hematochezia - ischemic colitis vs. infectious. Completing screen for C
   diff, checking stools.  Monitoring UO.
   ICU Care
   Nutrition:
   Comments: Clears
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2144-1-28**] 09:00 PM
   Multi Lumen - [**2144-1-28**] 09:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   CRITICAL CARE
   New AF with RVR with decr BP.  BC now pos for coag neg Staph
 likely
   contaminant.  Abd pain continues and may be source of all of this.
   Still getting IVF but may need an [**Doctor Last Name **].
   Time spent 45
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 56**] [**Last Name (NamePattern1) 37**], MD
   on:[**2144-1-29**] 19:37 ------

2144-01-30 07:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2144-1-29**]:
   - GI consult thought possibly ischemic colitis, lactate only 2.2, had
   no more bloody BM (had one liquid BM, unable to send), ab exam stable
   - went into new onset AF with RVR in afternoon
   - had low BPs, responded well to IVF, CVP was 3
   - d/w Dr. [**Last Name (STitle) 12540**] and [**First Name4 (NamePattern1) 965**] [**Last Name (NamePattern1) **] (onc team), they are aware of his
   course and will try to stop by tomorrow
   - pt needs discussion of code status, daughter [**Name (NI) **] has tried with
   Dr. [**First Name (STitle) **] before, but patient refused to talk about it, SW c/s placed
   - surveillance blood cx drawn peripherally and from [**Last Name (LF) 9279**], [**First Name3 (LF) **] not
   remove [**First Name3 (LF) 9279**] unless more evidence of infection (currently only 1 of
   2 sets, 2/2 bottles growing CoNS)
   - KUB done, no read yet but distended bowel, no air-fluid levels
   - if need more cards hx, cardiologist is [**First Name8 (NamePattern2) 1046**] [**Last Name (NamePattern1) 12541**] [**Telephone/Fax (1) 12542**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-29**] 07:50 PM
   Metronidazole - [**2144-1-30**] 12:33 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-30**] 01:50 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-1-29**] 03:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-1-30**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 91 (86 - 120) bpm
   BP: 122/66(76) {78/37(48) - 122/80(84)} mmHg
   RR: 21 (14 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.9 kg (admission): 101.2 kg
   Height: 68 Inch
    CVP: 6 (2 - 10)mmHg
   Total In:
                                                                  6,297 mL
                                                                  1,277 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  6,057 mL
                                                                  1,277 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                  1,820 mL
   Urine:
                                                                  3,885 mL
                                                                  1,820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,412 mL
                                                                   -543 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   81 K/uL
   7.8 g/dL
   103 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.1 mEq/L
   15 mg/dL
   107 mEq/L
   137 mEq/L
   24.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2144-1-28**]  10:10 PM
                             [**2144-1-29**]  04:08 AM
                             [**2144-1-29**]  02:18 PM
                             [**2144-1-30**]  04:06 AM
   WBC
   5.8
   6.2
   6.1
   5.1
   Hct
   28.0
   28.7
   29.4
   24.7
   Plt
   113
   107
   114
   81
   Cr
   1.3
   1.3
   1.5
   1.4
   Glucose
   116
   124
   119
   103
   Other labs: PT / PTT / INR:16.1/28.3/1.4, Differential-Neuts:93.5 %,
   Lymph:4.3 %, Mono:1.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.1
   mg/dL, Mg++:1.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   81 y.o. Male w/ esophageal and NSCLC initially admitted w/ witnessed
   seizure, hypotension admitted to ICU for hypotension concerning for
   sepsis vs hypovolemia.
   ##. Hypotension: Concerning for sepsis versus hypovolemia. Pt last had
   chemo several days prior to admission and is undergoing XRT. Noted to
   be febrile prior to the episode of hypotension, coupled with positive
   bld culture concerning for septic shock. Pt currently started on
   Cipro/Flagyl/[**Last Name (LF) 339**], [**First Name3 (LF) **] change coverage to Zosyn, [**First Name3 (LF) 339**], Flagyl for
   broad coverage pending speciation. Will also continue to IVF bolus and
   placed a central line. Suspected sources include GI given episode of
   bleeding this AM, will also check pulmonary, urine. Other ddx to
   consider includes hypovolemia given pt's poor PO intake and admission
   data of hypotension relieved with IVF.  Bacteremia is most likely
   transient vs contaminant given Coag Negative Staph.  Will follow BCX.
   - Make Dr. [**Last Name (STitle) 1525**] aware of bloodstream infection in patient with
   [**Last Name (STitle) 9279**] as he placed [**Last Name (STitle) 9279**]
   - f/u bld cultures
 GPC
   - check U/A, urine cultures
   - placed central line for access, possible pressors
 less likely now
   - place A-line if hypotension persists or pressors are initiated
deferred given excellent response to fluids
   - change abx to [**Last Name (STitle) 339**], Zosyn, Flagyl
 Zosyn, Flagyl for bowel, [**Last Name (STitle) 339**] for
   GPCs
   - f/u C. diff, Stool cultures
   - check CXR for PNA
   - check Hct
   .
   AFIB w/ RVR
 Resolved yesterday with fluids
   .
   ## Abdominal Pain:  likely [**2-25**] diarrhea/diarrheal illness, some
   distension on KUB, but no air/fluid levels.
   -KUB
 with a few dilated loops, no air fluid levels
   -f/u stool studies
   .
   HCT drop/low plts
 likely dilutional given 3 L boluses yesterday and
   suspected initial contracted state, as well as three line drop
   .
   ##Throat Pain:  Likely [**2-25**] XRT
   -magic mouthwash
   -oxycodone
   .
   ##. Hematochezia: Per review with primary team on medicine floor pt was
   noted to have 400cc of bloody bowel movement. GI have already been
   consulted with the concern being ischaemic colitis given the level of
   hypotension in the ED. GI recommended pt start a clear diet and undergo
   an infectious colitis work up.
   - will check stool cx, C. diff toxin for infectious colitis work up
   - will type and cross
   - check Hct, [**Hospital1 7**] for now given stability
   - f/u GI recs
   - will continue on clear diet
   .
   ##. [**Last Name (un) **]: Pt's baseline Creatinine 1.0-1.2, currently elevated, likely
   pre-renal in nature, need to consider ATN given episode of hypotension.
   Will continue to trend Creatinine response to fluids.If Creatinine
   fails to improve will consider urine lytes.
   - trend Creatinine down to 1.4 today.
   - bolus fluids PRN
   .
   ##. Seizure: Will continue on home regimen of phenobarbital, place on
   seizure precautions
    .
   ##. Esophageal/NSCLC: Pt received chemo several days ago, received XRT
   yesterday AM.
   - f/u Heme Onc recs
   - Oxycodone PRN pain
   - Zofran, Ondanestron for nausea
   .
   ##. DVT Prophylaxis: SC heparin TID
   .
   ##. Communication: Daughter [**Name (NI) **]
   .
   ##. ACCESS: PIV, Rt SCL
   .
   ##. CODE STATUS: Confirmed FULL
    .
   ##. DISPOSITION: likely today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port ([**Name (NI) **]) - [**2144-1-28**] 09:00 PM
   Multi Lumen - [**2144-1-28**] 09:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2144-01-30 12:44:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better. Wants to eat. Abd pain sl less intense
   24 Hour Events:
                               History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2144-1-29**] 07:50 PM
   Metronidazole - [**2144-1-30**] 09:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2144-1-30**] 10:53 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2144-1-29**] 03:55 PM
   Omeprazole (Prilosec) - [**2144-1-30**] 08:38 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: Abdominal pain, Nausea, No(t) Emesis, No(t) Diarrhea,
   No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**3-26**] Mild
   Pain location: epigastric
   Flowsheet Data as of  [**2144-1-30**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**46**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36.2
C (97.2
   HR: 91 (86 - 120) bpm
   BP: 101/70(78) {78/37(48) - 122/80(84)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110.9 kg (admission): 101.2 kg
   Height: 68 Inch
   CVP: 6 (2 - 10)mmHg
   Total In:
                                                                  6,297 mL
                                                                  1,691 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                  6,057 mL
                                                                  1,676 mL
   Blood products:
   Total out:
                                                                  3,885 mL
                                                                  2,980 mL
   Urine:
                                                                  3,885 mL
                                                                  2,980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,412 mL
                                                                 -1,290 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , Crackles : scattered, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: epigastric, No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   81 K/uL
   103 mg/dL
   1.4 mg/dL
   22 mEq/L
   3.1 mEq/L
   15 mg/dL
   107 mEq/L
   137 mEq/L
   24.7 %
   5.1 K/uL
        [image002.jpg]
                             [**2144-1-28**]  10:10 PM
                             [**2144-1-29**]  04:08 AM
                             [**2144-1-29**]  02:18 PM
                             [**2144-1-30**]  04:06 AM
   WBC
   5.8
   6.2
   6.1
   5.1
   Hct
   28.0
   28.7
   29.4
   24.7
   Plt
   113
   107
   114
   81
   Cr
   1.3
   1.3
   1.5
   1.4
   Glucose
   116
   124
   119
   103
   Other labs: PT / PTT / INR:16.1/28.3/1.4, Differential-Neuts:93.5 %,
   Lymph:4.3 %, Mono:1.2 %, Eos:1.0 %, Lactic Acid:1.0 mmol/L, Ca++:7.1
   mg/dL, Mg++:1.4 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS) - POSSIBLE ISCHEMIC
   COLITIS
 HYPOTENSION (NOT SHOCK)
   VOLUME DEPLETION
   ANEMIA
   ESOPHAGEAL CA/ LUNG CA
   He is gradually improving. Seems much of this was vol depletion but
   likely complicated by ischemic colitis.  We will speak with Oncology
   about possible feeding tube.  Hct down overnight - will repeat as other
   lines also down
   ICU Care
   Nutrition:
   Comments: Liquid
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2144-1-28**] 09:00 PM
   Multi Lumen - [**2144-1-28**] 09:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes